US08859782B2
8-Methoxy-3-phenyl-1-azaspiro[4.5]decane-2,4-dione
The procedure is as in Example 1, except that 1.532 g of methyl 8-methoxy-2,4-dioxo-1-azaspiro[4.5]decane-3-carboxylate as in Example (X-2-a-1) are used instead of 5,5-dimethyl-pyrrolidine-2,4-dione. This gives the title compound in a yield of approximately 90% of theory.

reactant | methyl 8-methoxy-2,4-dioxo-1-azaspiro[4.5]decane-3-carboxylate | 1.532 g | COC1CCC2(C(C(C(N2)=O)C(=O)OC)=O)CC1 | C12H17NO5
reactant | 5,5-dimethyl-pyrrolidine-2,4-dione | CC1(C(CC(N1)=O)=O)C | C6H9NO2
product | 8-Methoxy-3-phenyl-1-azaspiro[4.5]decane-2,4-dione | yield of approximately 90% | COC1CCC2(C(C(C(N2)=O)C2=CC=CC=C2)=O)CC1 | C16H19NO3
